US07307097B2
To a suspension of sodium hydride (4.80 g, 0.2 mol, 2 eq, 60% dispersion in mineral oil) in tetrahydrofuran (100 mL) was slowly added malonodinitrile (6.61 g, 0.1 mol). 4-Nitrobenzoyl chloride (18.8 g, 0.1 mol, 1 eq) was then added in portions while keeping the reaction temperature below 10° C. The reaction mixture was stirred for 1 hour at room temperature. Dimethyl sulfate (15.1 g, 0.12 mol, 1.2 eq) was then added and the reaction mixture was refluxed for 2 hours. Triethylamine (25.3 g, 0.25 mol, 2.5 eq), followed by tert-butyl hydrazine hydrochloride (12.4 g, 10 mmol), was added and the reaction mixture was heated under reflux for an additional hour. The solvent was then evaporated and 50 mL of ethanol were added. The reaction mixture was heated under reflux, and water (250 mL) was added while keeping the temperature above 50° C. The reaction mixture was then cooled to 10° C. and 5-amino-1-tert-butyl-3-(4-nitro-phenyl)-1H-pyrazole-4-carbonitrile was isolated by filtration. 1H-NMR (DMSO-d6): ppm 1.59 (s, 9H), 6.55 (br s, 2H), 8.05 (d, 2H, J=7.2 Hz), 8.33 (d, 2H, J=7.2 Hz). LC MS (m/e)=285.8 (MH+).

reactant | sodium hydride | 0.2 mol, 4.80 g, 2 eq | [H-].[Na+]
reactant | malonodinitrile | 0.1 mol, 6.61 g | C(C#N)C#N | C3H2N2
reactant | 4-Nitrobenzoyl chloride | 0.1 mol, 18.8 g, 1 eq | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | Dimethyl sulfate | 0.12 mol, 15.1 g, 1.2 eq | S(=O)(=O)(OC)OC | C2H6O4S
reactant | Triethylamine | 0.25 mol, 25.3 g, 2.5 eq | C(C)N(CC)CC | C6H15N
reactant | tert-butyl hydrazine hydrochloride | 10 mmol, 12.4 g | Cl.C(C)(C)(C)NN
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 5-amino-1-tert-butyl-3-(4-nitro-phenyl)-1H-pyrazole-4-carbonitrile | NC1=C(C(=NN1C(C)(C)C)C1=CC=C(C=C1)[N+](=O)[O-])C#N | C14H15N5O2
